US08912188B2
To a solution of 6-(pyrrolidin-1-yl)pyridin-3-ylboronic acid (244.9 mg, 1.28 mmol) in N,N-dimethylformamide (6 mL) was added 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (170.0 mg, 0.58 mmol), Pd(OAc)2 (17.2 mg, 0.03 mmol), DPPF (28.3 mg, 0.05 mmol), CuCl (50.5 mg, 0.51 mmol) and Cs2CO3 (332.4 mg, 1.02 mmol) with stirring for 0.5 h at 100° C. with an inert atmosphere of nitrogen. The reaction mixture was cooled and extracted with ethyl acetate (3×80 mL), dried over anhydrous magnesium sulfate and concentrated under vacuum. The residue was purified by a silica gel column with 2.5% ethyl acetate in petroleum ether to afford methyl 3-(isopropyl(methyl)amino)-2-(6-(pyrrolidin-1-yl)pyridin-3-yl)quinoxaline-6-carboxylate as a light yellow solid (130.0 mg, 55%).

reactant | 6-(pyrrolidin-1-yl)pyridin-3-ylboronic acid | 1.28 mmol, 244.9 mg | N1(CCCC1)C1=CC=C(C=N1)B(O)O | C9H13BN2O2
reactant | 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.58 mmol, 170.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)[O-]
reactant | Cs2CO3 | 1.02 mmol, 332.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 0.03 mmol, 17.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 0.05 mmol, 28.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | CuCl | 0.51 mmol, 50.5 mg | Cl[Cu]
product | methyl 3-(isopropyl(methyl)amino)-2-(6-(pyrrolidin-1-yl)pyridin-3-yl)quinoxaline-6-carboxylate | 130.0 mg, 55% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NC(=CC1)N1CCCC1)C | C23H27N5O2
